US07501518B2
A solution of (2′R,6′S)-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (308 mg, 1.15 mmol), 6-bromo-hexanoic acid ethyl ester (283 mg, 1.27 mmol), DIPEA (260 μL, 1.49 mmol) and KI (10 mg, 0.060 mmol) in CH3CN (12 mL) was warmed to 60° C. and stirred for 23 h according to General Procedure A. Purification by flash chromatography on silica gel using CH2Cl2/MeOH/NH4OH (94:5:1) afforded 6-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-hexanoic acid ethyl ester (425 mg, 90%) as a yellow oil. 1H NMR (CDCl3) δ 0.60-0.68 (m, 2H), 0.79-0.85 (m, 1H), 1.13-1.25 (m, 5H), 1.58-1.70 (m, 3H), 1.94-1.98 (m, 4H), 2.08-2.25 (m, 7H), 2.48 (bs, 6H), 1.50-2.63 (m, 2H), 4.03 (q, 2H, J=7.1 Hz), 7.05-7.08 (m, 2H), 7.43 (d, 2H, J=7.3 Hz), 8.47 (bs, 2H).

reactant | (2′R,6′S)-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 1.15 mmol, 308 mg | CC=1C(=NC=CC1)[C@@H]1N[C@@H](CCC1)C1=NC=CC=C1C | C17H21N3
reactant | 6-bromo-hexanoic acid ethyl ester | 1.27 mmol, 283 mg | C(C)OC(CCCCCBr)=O | C8H15BrO2
reactant | DIPEA | 1.49 mmol, 260 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 12 mL | CC#N | C2H3N
product | 6-((2′R,6′S)-3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-yl)-hexanoic acid ethyl ester | 425 mg, 90% | C(C)OC(CCCCCN1[C@H](CCC[C@H]1C1=NC=CC=C1C)C1=NC=CC=C1C)=O | C25H35N3O2
